US06509328B1
(3-Amino-2′-fluoro-6′-methoxy-biphenyl-4-yl)-carbamic Acid tert.-Butyl Ester
Prepared from (2′-fluoro-6′-methoxy-3-nitro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example B16) by catalytic hydrogenation with Pd/C according to the general procedure G (method a). Obtained as a light purple foam (577 mg).

reactant | (2′-fluoro-6′-methoxy-3-nitro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1OC)F)[N+](=O)[O-])=O | C18H19FN2O5
catalyst | Pd/C | [Pd] | Pd
product | (3-Amino-2′-fluoro-6′-methoxy-biphenyl-4-yl)-carbamic Acid tert.-Butyl Ester | 577 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1OC)F)N)=O | C18H21FN2O3
